US06977299B2
The o-nitrophenoxyacetone is prepared by heating with agitation for five hours at about 65° C. a mixture which consists of 421.6 g (3.006 moles) of o-nitrophenol, 297.8 g (3.09 moles) of chloroacetone, 37.2 g (96%, 0.3615 moles) of sodium bromide, 277.2 g (3.3 moles) of sodium bicarbonate, 21.8 g (0.0647 moles) of aqueous tributylmethylammonium chloride (TBMAC), and 829 g of toluene. There is then added 9.0 g (0.093 mole) of additional chloroacetone to the mixture which is further heated at 65° C. for 2.5 hours (note, sample analysis indicated that the reaction was complete after 1.5 hours). There is then added, 570 g of water and the pH of the mixture is adjusted to 6.5–7 at 55° C. to 60° C. upon addition of 55 g of a 10% HCl solution. The phases are allowed to separate and the aqueous phase is removed.

reactant | o-nitrophenol | 3.006 moles, 421.6 g | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
reactant | chloroacetone | 3.09 moles, 297.8 g | ClCC(C)=O | C3H5ClO
reactant | sodium bromide | 0.3615 moles, 37.2 g | [Br-].[Na+]
reactant | sodium bicarbonate | 3.3 moles, 277.2 g | C([O-])(O)=O.[Na+]
reactant | chloroacetone | 0.093 mole, 9.0 g | ClCC(C)=O | C3H5ClO
reactant | HCl | Cl | ClH
catalyst | tributylmethylammonium chloride | 0.0647 moles, 21.8 g | [Cl-].C(CCC)[N+](C)(CCCC)CCCC
solvent | water | 570 g | O | H2O
solvent | toluene | 829 g | C1(=CC=CC=C1)C | C7H8
product | o-nitrophenoxyacetone | [N+](=O)([O-])C1=C(OCC(C)=O)C=CC=C1 | C9H9NO4
